US07786156B2
Synthesis of N,N-dimethyl 2-(5-cyano-1H-indol-3-yl)ethyl-amine
A flask with mechanical stirrer is charged with 5-iodo-dimethyltryptamine (179 g of 75% purity, 0.427 mol), copper (I)cyanide (90 g, 1.0 mol), and N-methylpyrrolidone (1.5 l). The pink suspension is heated at 180° C. under a nitrogen atmosphere and vigorously stirred, until the iodide is completely consumed (7 h). After cooling to ambient temperature ammonia (2 l 25% solution in water) is added, and the resulting mixture is stirred over night. The mixture is then extracted with TBME (6*1.5 l), and the combined organic layers are washed with water (3*3 l), and brine (1*3 l), and dried (sodium sulfate). Removal of the solvent leaves 75 g (82%) of the product which is >95% pure by HPLC (other properties cf. Reference Example 3).

reactant | 5-iodo-dimethyltryptamine | 0.427 mol, 179 g | IC1=CC=C2NC=C(CCN(C)C)C2=C1 | C12H15IN2
reactant | copper (I)cyanide | 1.0 mol, 90 g | [Cu]C#N
reactant | iodide | [I-]
solvent | N-methylpyrrolidone | 1.5 l | CN1C(CCC1)=O | C5H9NO
product | N,N-dimethyl 2-(5-cyano-1H-indol-3-yl)ethyl-amine | 75 g, 82% | CN(C)CCC1=CNC2=CC=C(C=C12)C#N | C13H15N3
